Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
atenolol / Lipitor
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, chills
 
Major Surgical or Invasive Procedure:
___ ERCP with removal of stones and sludge

 
History of Present Illness:
___ female with a history of lap converted to open 
cholecystectomy, failed ERCP with open CBD exploration presents 
with sudden onset abdominal pain this evening. Around 430 
___ evening the patient says she experienced sudden onset 
of abdominal pain, the pain was accompanied by chills, 
subjective fevers and nausea, so the patient sought care at 
___. At ___ she was found to have 
elevated LFTs AST 744, ALT 328, alk phos 441, T bili 1.6.  Her 
systolic blood pressure was in the ___ where she was given IV 
fluids and Zosyn.  She also underwent a CT scan which showed 
pneumobilia.  The patient was sent to ___ for evaluation for
ERCP.
 
Past Medical History:
Past medical history:
Hypercholesterolemia
Subclavian ___ syndrome
Hemorrhoids
Constipation
Hearing loss
Type 2 diabetes
Breast cancer right breast

Past surgical history:
Lap converted to open Chole ___ at ___
with Dr. ___ surgery ___
Lumpectomy right breast 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
100.3 99 93/62 13 96 RA
___: No acute distress, hard of hearing
CV: RRR
Respiratory: Easy work of breathing
Abdomen: Soft, obese, nondistended, tender to palpation in right
upper quadrant and epigastrium
Extremities: No edema

Discharge Physical Exam
GEN: Awake, alert, pleasant and interactive.
HEENT: PERRL. EOMI. Nares patent, mucus membranes pink/moist. 
CV: RRR
PULM: Clear bilaterally
ABD: Soft, non-distended, mild tenderness with palpation lower 
abdomen.
EXT: Warm and dry. No edema. ___ pulses.
NEURO: A&Ox3. Follows commands and moves all extremities equal 
and strong. Speech is clear and fluent. 
 
Pertinent Results:
___ 05:44AM BLOOD WBC-5.3 RBC-3.56* Hgb-10.3* Hct-31.8* 
MCV-89 MCH-28.9 MCHC-32.4 RDW-13.4 RDWSD-44.1 Plt ___
___ 10:35AM BLOOD WBC-6.6 RBC-3.91 Hgb-11.2 Hct-35.4 MCV-91 
MCH-28.6 MCHC-31.6* RDW-13.5 RDWSD-44.8 Plt ___
___ 09:20AM BLOOD WBC-8.1 RBC-3.65* Hgb-10.7* Hct-33.4* 
MCV-92 MCH-29.3 MCHC-32.0 RDW-13.6 RDWSD-45.8 Plt ___
___ 11:30AM BLOOD WBC-11.4* RBC-3.45* Hgb-10.0* Hct-30.9* 
MCV-90 MCH-29.0 MCHC-32.4 RDW-13.4 RDWSD-43.9 Plt ___
___ 03:20AM BLOOD WBC-12.5* RBC-3.86* Hgb-11.1* Hct-33.9* 
MCV-88 MCH-28.8 MCHC-32.7 RDW-13.4 RDWSD-42.6 Plt ___
___ 10:35AM BLOOD ___
___ 09:20AM BLOOD ___ PTT-34.3 ___
___ 03:31AM BLOOD ___ PTT-24.5* ___
___ 05:44AM BLOOD Glucose-124* UreaN-10 Creat-0.7 Na-141 
K-3.9 Cl-105 HCO3-25 AnGap-11
___ 10:35AM BLOOD Glucose-130* UreaN-8 Creat-0.7 Na-136 
K-4.1 Cl-98 HCO3-22 AnGap-16
___ 09:20AM BLOOD Glucose-98 UreaN-15 Creat-0.9 Na-143 
K-4.2 Cl-105 HCO3-23 AnGap-15
___ 11:30AM BLOOD Glucose-138* UreaN-19 Creat-1.0 Na-142 
K-4.2 Cl-105 HCO3-26 AnGap-11
___ 03:20AM BLOOD Glucose-182* UreaN-20 Creat-1.0 Na-140 
K-3.7 Cl-101 HCO3-24 AnGap-15
___ 05:44AM BLOOD ALT-147* AST-92* AlkPhos-321* 
TotBili-1.8*
___ 10:35AM BLOOD ALT-187* AST-140* AlkPhos-331* 
TotBili-4.0* DirBili-3.1* IndBili-0.9
___ 09:20AM BLOOD ALT-242* AST-222* LD(LDH)-211 
AlkPhos-291* TotBili-2.4* DirBili-2.0* IndBili-0.4
___ 11:30AM BLOOD ALT-361* AST-509* AlkPhos-326* 
TotBili-2.3*
___ 05:44AM BLOOD Calcium-8.7 Phos-3.0 Mg-1.8
___ 10:35AM BLOOD Calcium-9.0 Phos-2.8 Mg-1.4*
___ 09:20AM BLOOD Calcium-8.5 Phos-2.9 Mg-1.6
___ 03:30AM BLOOD Lactate-2.2*

CT ___ OSH
Pneumobilia, what appears to be a large common bile duct stone

MRCP ___:
1. Mild intrahepatic and moderate extrahepatic biliary ductal 
dilation with two 1.1cm calculi within the distal common bile 
duct, the stone however is nonobstructing.  The dilated CBD 
tapers towards the ampulla raising suspicion for ampullary 
stenosis or obstruction by the juxta papillary diverticulum 
causing proximal CBD dilation and secondary stone formation. 
2. There is uniform enhancement of the CBD wall and mild 
enhancement of the wall of intrahepatic bile ducts suggesting 
mild cholangitis. 
3. Possible small stone vs locule of air within the normal 
caliber main 
pancreatic duct. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with past medical history notable for 
laparoscopic converted to open cholecystectomy, failed ERCP with 
open CBD exploration in the past. She presented to outside 
hospital with sudden onset abdominal pain with nausea. Labs were 
notable for elevated LFTs. CT abdomen showed pneumobilia with a 
dilated common bile duct but no stones visible. She was made 
NPO, given zosyn, and transferred to ___ on ___ for 
further management. She underwent MRCP which showed mild 
intrahepatic and moderate extrahepatic biliary ductal dilation 
with 
two 1.1 cm calculi within the distal common bile duct, the stone 
however is nonobstructing. GI was consulted and the patient 
underwent ERCP and cholangiogram showed several large filling 
defects suggestive of stones in the common bile duct. Several 
balloon sweeps were done with removal of stones and sludge. 
Final cholangiogram showed excellent bile and contrast drainage 
and no evidence of filling defects. 

Post procedure her LFTs were trended and she had an initial bump 
in her alkphos and total bilirubin but clinical improvement in 
her abdominal pain. She was given a regular diet with good 
tolerability. Her white blood cell count normalized and she 
remained afebrile and therefore the Zosyn was discontinued. Post 
ERCP day 2, the patient's LFTs trended down and she continued to 
tolerate a regular diet and felt well overall. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.
 
Medications on Admission:
Omeprazole 20
Sertraline ___
Multivitamin
Vitamin D
Ranitidine 150
Simvastatin 20
2 baby aspirin
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Aspirin 162 mg PO DAILY  
3.  BusPIRone 5 mg PO BID:PRN anxiety  
4.  Omeprazole 20 mg PO DAILY  
5.  Ranitidine 150 mg PO QHS  
6.  Sertraline 150 mg PO DAILY  
7.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post cholecystectomy biliary obstruction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
with abdominal pain, elevated liver enzymes, and elevated 
bilirubin level. You had a CT scan that was concerning for an 
obstruction in your biliary system. You then underwent ERCP and 
had multiple stones and sludge removed from your bile ducts. 
After the procedure your abdominal pain resolved and your liver 
enzymes and bilirubin improved. You are now doing better, 
tolerating a regular diet, and ready to be discharged to home to 
continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 
 
Followup Instructions:
___